US04359578
2,6-Dichloro-3-nitropyridine was reacted with N-ethoxycarbonylpiperazine to give 6-chloro-2-(4-ethoxycarbonyl-1-piperazinyl)-3-nitropyridine. The product, without purification, was heated with ethanolic ammonia in a sealed tube at 120°-125° C. to give 6-amino-2-(4-ethoxycarbonyl-1-piperazinyl)-3-nitropyridine (mp 132°-134° C.), which was treated with acetic anhydride in acetic acid to give 6-acetylamino-2-(4-ethoxycarbonyl-1-piperazinyl)-3-nitropyridine (mp 168°-169° C.). This compound was catalytically hydrogenated in the presence of 5% palladium-carbon in acetic acid to yield 3-amino-6-acetylamino-2-(4-ethoxycarbonyl-1-piperazinyl)pyridine. The obtained 3-amino derivative, without further purification, was dissolved in a mixture of ethanol and 42% tetrafluoroboric acid, and to this solution was added a solution of isoamyl nitrite in ethanol at below 0° C. with stirring. Twenty minutes later, ether was added to the solution. The resulting precipitate was collected by filtration and washed with a mixture of methanol and ether and then with chloroform to yield 6-acetylamino-2-(4-ethoxycarbonyl-1-piperazinyl)-3-pyridine diazonium tetrafluoroborate; mp 117°-117.5° C. (dec.).

reactant | 2,6-Dichloro-3-nitropyridine | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | N-ethoxycarbonylpiperazine | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
product | 6-chloro-2-(4-ethoxycarbonyl-1-piperazinyl)-3-nitropyridine | ClC1=CC=C(C(=N1)N1CCN(CC1)C(=O)OCC)[N+](=O)[O-] | C12H15ClN4O4
